US04710570
Preparation of 7-trifluoromethyl-dicyanomethylene-3H-phenothiazine (Compound AD-28)
To a stirred solution of 2.6 g 7-trifluoromethylphenothiazine, 1 g malononitrile and 4 g potassium acetate in 70 ml methanol was added a solution of 4 g iodine in 50 ml methanol. The precipitated dye was filtered, washed repeatedly with methanol and recrystallised in chloroform-methanol. Yield 0.6 g (18%).

reactant | 7-trifluoromethylphenothiazine | 2.6 g | FC(C=1C=C2SC=3C=CC=CC3NC2=CC1)(F)F | C13H8F3NS
reactant | malononitrile | 1 g | C(CC#N)#N | C3H2N2
reactant | potassium acetate | 4 g | C(C)(=O)[O-].[K+]
reactant | iodine | 4 g | II | I2
solvent | methanol | 70 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 7-trifluoromethyl-dicyanomethylene-3H-phenothiazine | FC(C=1C=C2SC3=CC(C=CC3=NC2=CC1)=C(C#N)C#N)(F)F | C16H6F3N3S
